US05763635
(5,6,7,8-Tetrahydro-5,5-dimethylnaphth-2-yl)boronic acid (Compound B13)
To a cold (-78° C.) solution of 2.02 g (8.4 mmol) of 6-bromo-1,2,3,4-tetrahydro-1,1-dimethylnaphthalene in 11.0 mL of toluene, was added 4.6 g (6.8 mL, 10.9 mmol, 1.6M in hexane) of n-BuLi. The resulting solution was stirred at -78° C. for 45 min. and then 2.40 g (3.0 mL, 12.7 mmol) of triisopropylborate was dropwise added and the reaction stirred at room temperature for 12 h. The reaction was then diluted with 10% HCl, and extracted with ether (2×). The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give an oil. Recrystallization from hexane afforded the title compound as a white solid.

reactant | 6-bromo-1,2,3,4-tetrahydro-1,1-dimethylnaphthalene | 8.4 mmol, 2.02 g | BrC=1C=C2CCCC(C2=CC1)(C)C | C12H15Br
reactant | n-BuLi | 10.9 mmol, 1.6M, 6.8 mL, 4.6 g | [Li]CCCC
reactant | triisopropylborate | 12.7 mmol, 3.0 mL, 2.40 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | toluene | 11.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | Cl | ClH
product | (5,6,7,8-Tetrahydro-5,5-dimethylnaphth-2-yl)boronic acid | CC1(C=2C=CC(=CC2CCC1)B(O)O)C | C12H17BO2
